US06638931B1
{3-[5-Methyl-3-(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine Dihtydrochloride
N-{3-[5-Methyl-3-[(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy]phenoxy]propoxy}guanidine dihydrochloride: The title compound was prepared in 76% yield from N-{3-[5-methyl-3-[(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy]phenoxy]propoxy}phthalimide, as prepared in the preceding step, in a manner analogous to step f of Example 1. 1H-NMR (300 MHz, DMSO-d6) δ 8.25 (d, J=7.9 Hz, 1H), 8.15 (d, J=7.9 Hz, 1H), 8.02 (t, J=7.6 Hz, 1H), 7.89 (t, J=7.7 Hz, 1H), 7.37 (br s, 4H), 6.75 (s, 1H), 6.53 (s, 1H), 6.47 (s, 1H), 4.07 (m, 1H), 3.97 (t, J=6.3 Hz, 2H), 3.87 (t, J=6.3 Hz, 2H), 3.22 (m, 2H), 3.17 (s, 3H), 2.79 (s, 3H), 2.72 (t, J=12.0 Hz, 2H), 2.22 (s, 3H), 1.99 (pentet, J=6.3 Hz, 4H), 1.60 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C24H35N5O7S2: 570.2 (M+H), 592.2 (M+Na). Found: 570.1, 592.1.

reactant | 3-[5-Methyl-3-[(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy]phenoxy]propoxy}guanidine dihydrochloride | Cl.Cl.CC=1C=CC(=C(OCCCONC(N)=N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C1CCN(CC1)C)C
reactant | 3-[5-methyl-3-[(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy]phenoxy]propoxy}phthalimide | CC=1C=CC(=C(OCCCOC2=C3C(C(=O)NC3=O)=CC=C2)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C1CCN(CC1)C)C | C31H35N3O9S2
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | {3-[5-Methyl-3-(2-(N-methyl-N-(1-methyl-4-piperidinyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine | 76% yield | CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C1CCN(CC1)C)C | C24H35N5O7S2
